US08536180B2
1-(3-methoxy-4-nitrophenylamino)-2-methylpropan-2-ol
A 20 mL reaction vial equipped with a stir bar was charged with 4-fluoro-2-methoxy-1-nitrobenzene (0.5 g, 2.92 mmol), 1-amino-2-methylpropan-2-ol (0.313 g, 3.51 mmol), N-methyl-2-pyrrolidinone (7.3 mL) and Hunig's base (N,N-diisopropylethylamine) (0.76 g, 5.84 mmol). The vessel was sealed and the reaction was heated on a thermal block at 80° C. for 24 hours. The reaction was cooled to ambient temperature, treated with water (40 mL) and extracted with ethyl acetate (3×60 mL). The combined organic layers were washed with brine (25 mL), dried over Na2SO4, filtered, and concentrated. The concentrate was purified by flash chromatography on a 10 g silica gel column with 1% methanol/CH2Cl2 to provide the title compound.

reactant | 4-fluoro-2-methoxy-1-nitrobenzene | 2.92 mmol, 0.5 g | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | 1-amino-2-methylpropan-2-ol | 3.51 mmol, 0.313 g | NCC(C)(O)C | C4H11NO
reactant | N-methyl-2-pyrrolidinone | 7.3 mL | CN1C(CCC1)=O | C5H9NO
reactant | Hunig's base | 5.84 mmol, 0.76 g | CCN(C(C)C)C(C)C | C8H19N
solvent | water | 40 mL | O | H2O
product | 1-(3-methoxy-4-nitrophenylamino)-2-methylpropan-2-ol | COC=1C=C(C=CC1[N+](=O)[O-])NCC(C)(O)C | C11H16N2O4
